US07018997B2
Step 1: 2.3 dihydro-4H-thiopyrano[2,3-b]pyridin-4-one:
A solution of 14 g. (61.6 mmol) 3-(3-Carboxy-2-pyridylthio)propionic acid [prepared as described in lit.: J. Heterocyclic Chem., 37.379(2000)]and 15 g.(185 mmol, 3 eqs) of anhydrous sodium acetate, in 200 mL. of acetic anhydride was refluxed (160° C.) under stirring, N2 atm, dry conditions, for 2 hours. Cooled, diluted with 300 mL of water, basified with 30% ammonium hydroxide solution to pH 8–9, extracted with 3×200 mL chloroform. Combined organics washed with 2×60 mL Sodium bicarbonate (satn.sol), water, dried, evaporated, gave 2.8 g. (27%) of the title compound, reddish solid, m.p.66–8° C., (M+H)+=166.2.

reactant | 3-(3-Carboxy-2-pyridylthio)propionic acid | 61.6 mmol | C(=O)(O)C=1C(=NC=CC1)SCCC(=O)O | C9H9NO4S
reactant | sodium acetate | 185 mmol | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | dihydro-4H-thiopyrano[2,3-b]pyridin-4-one | 27% | S1CCC(C=2C1=NC=CC2)=O | C8H7NOS
